* Subcircuit 4bit_DAC
.subckt 4bit_DAC /vrefh /vrefl /d0 /d1 /d2 /d3 /vdd /vout 
* c:\fossee\esim\library\subcircuitlibrary\4bit_dac\4bit_dac.cir

.options wnflag=1

.include 3bit_DAC.sub
.include switch.sub
x1 /vrefh net-_x1-pad2_ /d0 /d1 /d2 /vdd net-_x1-pad7_ 3bit_DAC
x2 net-_x1-pad2_ /vrefl /d0 /d1 /d2 /vdd net-_x2-pad7_ 3bit_DAC
x3 /d3 /vdd net-_x1-pad7_ net-_x2-pad7_ /vout switch
* Control Statements

.ends 4bit_DAC
